US04853410
6-Fluoro-2-methylchroman-4-one
A mixture of 56.1 g (0.5 mol) 4-fluorophenol, 172 g (2 mol) crotonic acid and 1120 ml methane sulfonic acid was heated at 92° C. for 20 hours. The reaction was cooled to 0° C., poured onto 2 liters ice and 2 liters water and extracted with 3×800 ml diethyl ether. The combined organic layers were washed with 3×500 ml water, 4×500 ml 1N sodium hydroxide, 2×500 ml water and 500 ml brine, dried over magnesium sulfate and concentrated in vacuo to give 48.5 g crude solid. The latter was purified by flash chromatography on 1000 cc silica gel using diethyl ether:hexane (1:10) as eluant. The title compound was obtained as a yellow solid, 37 g (41%); m.p. 65°-68° C. The Chemical Abstracts Registry Nos. for this compound are 88754-96-5 and 82320-16-9.

reactant | 4-fluorophenol | 0.5 mol, 56.1 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | crotonic acid | 2 mol, 172 g | C(\C=C\C)(=O)O | C4H6O2
reactant | methane sulfonic acid | 1120 ml | CS(=O)(=O)O | CH4O3S
solvent | water | 2 liters | O | H2O
product | 6-Fluoro-2-methylchroman-4-one | FC=1C=C2C(CC(OC2=CC1)C)=O | C10H9FO2
